US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-methoxybenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0348 g, 0.059 mmol) and LiOH (0.014 g, 0.591 mmol) in 9:1 EtOH/H2O (2 mL0 was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-methoxybenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0279 g, 0.050 mmol, 84% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.41 (d, J=8.0 Hz, 2H), 7.16 (d, J=7.7 Hz, 1H), 7.03-7.08 (m, 3H), 6.96 (d, J=7.9 Hz, 2H), 5.97 (br. s., 1H), 5.04-5.11 (m, 2H), 3.85 (s, 3H), 3.59 (br. s., 1H), 2.91 (br. s., 1H), 2.63 (br. s., 3H), 2.24-2.30 (m, 1H), 2.22 (s, 3H), 2.02-2.14 (m, 1H), 1.24 (s, 9H), 0.87 (br.s., 3H), 0.67 (br. s., 3H). 4H of piperidine were not resolved. LCMS (M+H)=561.4.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-methoxybenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.059 mmol, 0.0348 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC)C)C | C36H48N2O5
reactant | LiOH | 0.591 mmol, 0.014 g | [Li+].[OH-]
solvent | EtOH H2O | CCO.O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-methoxybenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.050 mmol, 0.0279 g, 84% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC)C)C | C34H44N2O5
